US07820650B2
To a well stirred suspension of (0.05 mol) of lithium aluminum hydride in 100 ml of anhydrous tetrahydrofuran, (0.043 mole) of 1-(2-cyanophenyl)pyrrole were added by small portions. Then the mixture was maintained with stirring at room temperature for 18 hours. Addition of aqueous ethanol to destroy the excess lithium aluminium hydride, followed by filtration afforded a solution, which was then evaporated in vacuo. The residue was extracted with ethyl ether, the organic layer washed with water and dried over anhydrous sodium sulphate. Removal of the solvent under reduced pressure gave a crude product, which was purified by passing through an alumina column eluting with chloroform to give 1-(2-aminomethylphenyl)pyrrole.

reactant | lithium aluminum hydride | 0.05 mol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 0.043 mole, 100 ml | O1CCCC1 | C4H8O
reactant | 1-(2-cyanophenyl)pyrrole | C(#N)C1=C(C=CC=C1)N1C=CC=C1 | C11H8N2
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-aminomethylphenyl)pyrrole | NCC1=C(C=CC=C1)N1C=CC=C1 | C11H12N2
